US03993658
Following the procedure described in Example 9, part B above but using equivalent amounts of 5-chloro-4,6,7-trifluoro-1,3-diiminoisoindoline and 2-(2-methylpiperidino)-4-imino-2-thiazoline hydrochloride in place of 1,3-diiminoisoindoline and 2-piperidino-4-imino-2-thiazoline hydrochloride respectively, there is obtained as the product 1-imino-5-chloro-4,6,7-trifluoro-3-[2-(2-methylpiperidino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride.

reactant | 5-chloro-4,6,7-trifluoro-1,3-diiminoisoindoline | ClC=1C(=C2C(NC(C2=C(C1F)F)=N)=N)F | C8H3ClF3N3
reactant | 2-(2-methylpiperidino)-4-imino-2-thiazoline hydrochloride | Cl.CC1N(CCCC1)C=1SCC(N1)=N
reactant | 2-piperidino-4-imino-2-thiazoline hydrochloride | Cl.N1(CCCCC1)C=1SCC(N1)=N
product | 1-imino-5-chloro-4,6,7-trifluoro-3-[2-(2-methylpiperidino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride | Cl.N=C1NC(C2=C(C(=C(C(=C12)F)F)Cl)F)=C1C(N=C(S1)N1C(CCCC1)C)=N | InChI=1S/C17H15ClF3N5S.ClH/c1-6-4-2-3-5-26(6)17-25-16(23)14(27-17)13-7-8(15(22)24-13)11(20)12(21)9(18)10(7)19;/h6,23H,2-5H2,1H3,(H2,22,24);1H
